US07981903B2
A solution of 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (130 mg, 0.2 mmol) in MeOH (10 mL) and THF (20 mL) was treated with a solution of sodium methoxide (0.5M in MeOH, 4 mL, 2 mmol). The resulting mixture was stirred at rt overnight, then diluted with EtOAc (100 mL) and saturated NaCl solution. The organic layer was washed with a saturated NaHCO3 solution, concentrated onto Celite and purified by silica gel chromatography using 0-5% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a beige solid (73 mg, 75%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.13 (s, 3H) 2.80 (d, J=4.4 Hz, 3H), 3.12 (t, J=8.42 Hz, 2H), 3.78 (s, 3H), 4.10 (t, J=8.42 Hz, 2H), 6.27 (d, J=1.28 Hz, 1H), 6.86-6.98 (m, 3H), 7.28-7.37 (m, 1H), 7.55 (s, 1H), 8.34 (d, J=8.61 Hz, 1H), 8.55 (br s, 1H), 8.63 (s, 1H), 10.14 (s, 1H), 11.27 (s, 1H); ESIMS (M+H)+=489.98.

reactant | 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.2 mmol, 130 mg | C(C)(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC | C32H30FN7O5S
reactant | sodium methoxide | 2 mmol, 0.5M, 4 mL | C[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | NaCl | [Na+].[Cl-]
product | 2-[(2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 73 mg, 75% | C(C)(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC | C25H24FN7O3
